US07491710B2
44.8 mg (0.25 eq; 0.039 mmol) of tetrakis(triphenylphosphine)palladium(0), 39.6 mg (2 eq; 0.310 mmol) of 2-thiopheneboronic acid, 3 ml of dimethylformamide and 150 μl of saturated sodium bicarbonate solution are added to 70 mg (1 eq; 0.155 mol) of 5-(dimethoxyphosphoryl)-3-iodoindazole-1-carboxylic acid tert-butyl ester. The medium is stirred at 130° C. for 5 hours. The reaction medium is filtered through paper and the solvent is evaporated off under reduced pressure in a rotary evaporator. The reaction crude is purified by LC/MS to obtain 2 mg of (3-thiophen-2-yl-1H-indazol-5-yl)phosphonic acid dimethyl ester (40% purity by NMR), along with 12.9 mg of (3-thiophen-2-yl-1H-indazol-5-yl)phosphonic acid monomethyl ester.

reactant | 2-thiopheneboronic acid | 0.310 mmol, 39.6 mg, 2 eq | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | sodium bicarbonate | 150 μl | C([O-])(O)=O.[Na+]
reactant | 5-(dimethoxyphosphoryl)-3-iodoindazole-1-carboxylic acid tert-butyl ester | 0.155 mol, 70 mg, 1 eq | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)P(=O)(OC)OC)I | C14H18IN2O5P
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.039 mmol, 44.8 mg, 0.25 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (3-thiophen-2-yl-1H-indazol-5-yl)phosphonic acid dimethyl ester | 2 mg, 40% | COP(OC)(=O)C=1C=C2C(=NNC2=CC1)C=1SC=CC1 | C13H13N2O3PS
